* C:\Users\madha\Desktop\Audio-Amplifier\audio_amplifier.asc
Q1 N013 Vin N016 0 BC547B
Q2 N010 Vin_inv N017 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
R1 N018 Vee 5k
Rc1 Vcc N010 11.5k
C1 N011 N010 10µ
R2 N012 Vee 15k
R3 Vcc N012 159k
Rc2 Vcc N006 20k
Re3 N015 Vee 1k
Q3 N006 N012 N015 0 BC547B
XU1 0 N001 N005 N009 N002 UA741
C3 N002 N001 8p
R4 N002 N001 1Meg
R5 N001 N007 1Meg
C4 N007 N006 8n
V4 Vin 0 SINE(0 10m 1k) AC 1
C5 N012 N011 10µ
R6 Vcc N013 11.5k
C6 NC_01 N002 10n
Re1 N016 N018 200
Re2 N017 N018 200
V5 Vin_inv 0 SINE(0 10m 1k 0 0 180)
C7 N018 Vee 10n
C9 N015 Vee 10n
Q4 Vcc N004 Vout 0 BC547B
Q5 Vee N014 Vout 0 BC557B
D1 N004 N008 1N4148
D2 N008 N014 1N4148
R7 Vcc N004 600
R8 N014 0 600
R9 Vout 0 10
V3 0 N009 12
V6 N005 0 12
C2 N004 N003 10n
C8 N014 N003 10n
V7 N003 0 SINE(0 4 1k)
.model D D
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
.include UA741.301
.backanno
.end
