* C:\Users\madha\Desktop\Audio-Amplifier\audio_amplifier.asc
Q1 N011 Vin N014 0 BC547B
Q2 N009 Vin_inv N015 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
R1 N016 Vee 5k
Rc2 Vcc N009 11k
C1 N010 N009 10n
R2 N010 Vee 15k
R3 Vcc N010 160k
Rc3 Vcc N005 20k
Re3 N013 Vee 1k
Q3 N005 N010 N013 0 BC547B
XU1 0 N001 N004 N008 N002 UA741
C3 N002 N001 8p
R4 N002 N001 1Meg
R5 N001 N006 1Meg
C4 N006 N005 8n
V4 Vin 0 SINE(0 10m 10k) AC 1
Rc1 Vcc N011 11k
Re1 N014 N016 200
Re2 N015 N016 200
V5 Vin_inv 0 SINE(0 10m 10k 0 0 180)
C9 N013 Vee 10n
Q4 Vcc N003 Vout 0 BC547B
Q5 Vee N012 Vout 0 BC557B
D1 N003 N007 1N4148
D2 N007 N012 1N4148
R7 Vcc N003 500
R8 N012 Vee 500
R§Load Vout 0 10
V3 0 N008 12
V6 N004 0 12
C2 N012 N002 10µ
C6 N003 N002 10µ
.model D D
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.include UA741.301
* .four 1KHz 10 10 V(Vout)
.ac dec 1m 10m 100k
.backanno
.end
