* C:\Users\madha\Desktop\Audio-Amplifier\audio_amplifier.asc
Q1 N014 Vin N016 0 BC547B
Q2 N012 Vin_inv N017 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
R1 N019 Vee 4.3k
Rc2 Vcc N012 10k
C1 N013 N012 10n
R2 N013 Vee 15k
R3 Vcc N013 160k
Rc3 Vcc N008 20k
Re3 N018 Vee 1k
Q3 N008 N013 N018 0 BC547B
XU1 0 N002 N007 N011 N003 UA741
C3 N003 N002 8p
R4 N003 N002 1Meg
R5 N002 N009 1Meg
C4 N009 N008 8n
V4 Vin 0 SINE(0 10m 20k) AC 1
Rc1 Vcc N014 10k
Re1 N016 N019 200
Re2 N017 N019 200
V5 Vin_inv 0 SINE(0 10m 20k 0 0 180)
Q4 Vcc N005 Vout 0 BC547B
Q5 Vee N015 Vout 0 BC557B
D1 N005 N010 1N4148
D2 N010 N015 1N4148
R7 Vcc N005 500
R8 N015 Vee 500
R§Load Vout 0 10
V3 0 N011 12
V6 N007 0 12
C2 N015 N003 100µ
C6 N005 N003 100µ
XU2 NC_01 N001 N004 N006 N001 UA741
V7 0 N006 12
V8 N004 0 12
.model D D
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.include UA741.301
* .four 1KHz 10 10 V(Vout)
.tran 0.2m
.backanno
.end
